US07714099B2
Synthesis of 3,6-dibromo-1,2-phenylenediamine
4,7-dibromobenzo[1,2,5]thiadiazole (6.0 g, 20.3 mmol), prepared according to WO 00/55927 PCT/GB00/00911 by bromination of benzo[1,2,5]thiadiazole, was placed in a 200-mL flask under a nitrogen atmosphere. Zinc dust (13.2 g, 203 mmol) and a mixture of acetic acid/water (35 mL/35 mL) were added. The flask was loosely capped with an inverted 1-neck flask. The reaction mixture was heated to 70° C. for 1 hr at which time reaction was complete as determined by TLC. The mixture was then cooled to room temperature and filtered. The solid was extracted with diethylether (3×100 mL). The extract was washed with saturated aqueous sodium bicarbonate and dried over MgSO4. The solution was filtered and evaporated to dryness using a rotary evaporator. The solid was purified by chromatography on a silica gel column, using dichloromethane as eluent. The appropriate fractions were combined and the solvent was removed under reducing pressure. A light yellow product was obtained. Yield: 70%.

reactant | 4,7-dibromobenzo[1,2,5]thiadiazole | 20.3 mmol, 6.0 g | BrC1=CC=C(C=2C1=NSN2)Br | C6H2Br2N2S
reactant | benzo[1,2,5]thiadiazole | N1=C2C(=NS1)C=CC=C2 | C6H4N2S
catalyst | Zinc | 203 mmol, 13.2 g | [Zn] | Zn
solvent | acetic acid water | 35 mL | C(C)(=O)O.O
product | 3,6-dibromo-1,2-phenylenediamine | Yield: 70% | BrC=1C(=C(C(=CC1)Br)N)N | C6H6Br2N2
